US07977351B2
3-(7-Bromo-1-phenyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one
A solution of 1,3-dihydro-indol-2-one (225 mg, 1.55 mmol) in THF (6 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (3.5 mL of a 1 M solution in THF, 3.5 mmol) dropwise. The resulting solution is stirred at room temperature for 10 min. A solution of 7-bromo-1-phenyl-1H-furo[3,4-c]pyridin-3-one (305 mg, 1.0 mmol, AcOH salt) is added as a solid to the reaction mixture. The resulting solution is stirred for 3.5 h. The reaction mixture is poured into aqueous 10% HCl solution (50 mL) and stirred at room temperature for 48 h. The precipitate which formed is collected by filtration and dried. The solid obtained is purified by chromatography (silica gel, 30% EtOAc/hexane). The product containing fractions are concentrated to give the title compound as a yellow solid (120 mg, 27%).

reactant | 1,3-dihydro-indol-2-one | 1.55 mmol, 225 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 7-bromo-1-phenyl-1H-furo[3,4-c]pyridin-3-one | 1.0 mmol, 305 mg | BrC=1C2=C(C=NC1)C(OC2C2=CC=CC=C2)=O | C13H8BrNO2
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(7-Bromo-1-phenyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one | 120 mg, 27% | BrC=1C2=C(C=NC1)C(OC2C2=CC=CC=C2)=C2C(NC1=CC=CC=C21)=O | C21H13BrN2O2
